US04609396
Methyl 2-[4-(6,7-dichloro-2-quinoxalinyloxy)phenoxy]propanoate
In a nitrogen atmosphere, a solution of 3.9 g (0.02 mole) methyl 2-(4-hydroxyphenoxy)propanoate in 20 cc of dimethylformamide was added dropwise at about 15° C. to a suspension of 0.8 g sodium hydride in 10 cc dimethylformamide. When the evolution of hydrogen ceased, 4.7 g of (0.02 mole) 2,6,7-trichloroquinoxaline was added and the reaction mixture was heated for 5 hours at ~130° C. Filtering the reaction mixture yielded a small amount of insoluble material. The filtrate was poured into approximately 200 cc of ice-water. Sodium chloride was added to the solution which was then extracted with 1200 cc of ether (4×300). The ethereal extracts were combined and dried over magnesium sulfate. The ether was removed under vacuum and the crude product was crystallized from CH3OH. Yield 2.8 g, m.p. 100°-105°.

reactant | methyl 2-(4-hydroxyphenoxy)propanoate | 0.02 mole, 3.9 g | OC1=CC=C(OC(C(=O)OC)C)C=C1 | C10H12O4
reactant | sodium hydride | 0.8 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2,6,7-trichloroquinoxaline | 0.02 mole, 4.7 g | ClC1=NC2=CC(=C(C=C2N=C1)Cl)Cl | C8H3Cl3N2
reactant | Sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 20 cc | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 cc | CN(C=O)C | C3H7NO
product | Methyl 2-[4-(6,7-dichloro-2-quinoxalinyloxy)phenoxy]propanoate | ClC=1C=C2N=CC(=NC2=CC1Cl)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C18H14Cl2N2O4
